US07528136B2
2-(4-{(2S,4S)-1-(3-Chloro-benzyl)-4-[(2,4-difluoro-benzyl)-methyl-amino]-pyrrolidine-2-carbonyl}-piperazin-1-yl)-benzonitrile
As described for Example 64e, (2S,4S)-1-(3-Chloro-benzyl)-4-[(2,4-difluoro-benzyl)-methyl-amino]-pyrrolidine-2-carboxylic acid (1 mmol) was converted, using 2-piperazin-1-yl-benzonitrile instead of 2-cyclohexyl-1,3,8-triaza-spiro[4.5]dec-1-en-4-one, to the title compound (51 mg) in 9% yield as colorless oil. MS m/e=565.1 [M+H]+.

reactant | (2S,4S)-1-(3-Chloro-benzyl)-4-[(2,4-difluoro-benzyl)-methyl-amino]-pyrrolidine-2-carboxylic acid | 1 mmol | ClC=1C=C(CN2[C@@H](C[C@@H](C2)N(C)CC2=C(C=C(C=C2)F)F)C(=O)O)C=CC1 | C20H21ClF2N2O2
reactant | 2-piperazin-1-yl-benzonitrile | N1(CCNCC1)C1=C(C#N)C=CC=C1 | C11H13N3
product | 2-(4-{(2S,4S)-1-(3-Chloro-benzyl)-4-[(2,4-difluoro-benzyl)-methyl-amino]-pyrrolidine-2-carbonyl}-piperazin-1-yl)-benzonitrile | 51 mg, 9% yield | ClC=1C=C(CN2[C@@H](C[C@@H](C2)N(C)CC2=C(C=C(C=C2)F)F)C(=O)N2CCN(CC2)C2=C(C#N)C=CC=C2)C=CC1 | C31H32ClF2N5O
